US04333928
A solution of 1.3 g of 16-ethylidene-3-methoxy-18-methyl-1,3,5(10)-estratrien-17-one in 180 ml of ethanol is hydrogenated, after adding 130 mg of 10% palladium charcoal, at room temperature and normal pressure. After absorbing 115 ml of hydrogen the reaction product is filtered off from the catalyst and the filtrate concentrated. Crystallization from methanol yields 1.3 g of 16β-ethyl-3-methoxy-18-methyl-1,3,5(10)-estratrien-17-one, m.p. 101°-102° C.

reactant | 16-ethylidene-3-methoxy-18-methyl-1,3,5(10)-estratrien-17-one | 1.3 g | C(C)=C1C([C@]2(CC)[C@@H](C1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)OC)=O | C22H28O2
solvent | ethanol | 180 ml | C(C)O | C2H6O
catalyst | palladium charcoal | 130 mg | [Pd] | Pd
product | 16β-ethyl-3-methoxy-18-methyl-1,3,5(10)-estratrien-17-one | 1.3 g | C(C)[C@@H]1C([C@]2(CC)[C@@H](C1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)OC)=O | C22H30O2
